US07851473B2
(1) 2,2,2-Trichloroethyl 1H-indol-5-ylcarbamate
To a solution of 5-aminoindole (1.00 g, 7.57 mmol) and pyridine (0.720 ml, 9.08 mmol) in tetrahydrofuran (25 ml) was added, under ice-cooling, 2,2,2-trichloroethyl chloroformate (1.26 ml, 9.08 mmol), and the mixture was stirred at room temperature for 1 hour and half. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by high performance liquid chromatography (YMC HPLC Column eluted with 10% to 100% Liquid A; Liquid A: a 0.1% solution of trifluoroacetic acid in acetonitrile; Liquid B: an aqueous 0.1% trifluoroacetic acid solution) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 334 mg (14.3%) of the desired product as a solid.

reactant | 5-aminoindole | 7.57 mmol, 1.00 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | pyridine | 9.08 mmol, 0.720 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 9.08 mmol, 1.26 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl 1H-indol-5-ylcarbamate | 334 mg, 14.3% | N1C=CC2=CC(=CC=C12)NC(OCC(Cl)(Cl)Cl)=O | C11H9Cl3N2O2
